US08629270B2
5-[(4aR,7aR)-2-Amino-6-(5-fluoropyrimidin-2-yl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-7a-yl]thiophene-3-carbonitrile, isomer 1
Racemic N-[7a-(4-cyano-2-thienyl)-6-(5-fluoropyrimidin-2-yl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide (1.01 g, 2.17 mmol), pyridine (2.64 mL, 32.6 mmol), and O-methylhydroxylamine hydrochloride (1.82 g, 21.7 mmol) in ethanol (250 mL) are stirred at 60° C. for 24 hours. The mixture is cooled to ambient temperature and concentrated. The mixture is diluted with water and extracted with DCM followed by 3:1 chloroform:isopropyl alcohol. The organic layers are combined, dried over sodium sulfate, filtered, and concentrated. The crude product is purified over silica gel using a gradient of hexane:ethyl acetate (1:0 to 0:1, over 30 min). The product is chirally separated by SFC (Column: Chiralpak AS-H 2.1×15 cm; 5μ; eluent: 30% methyl alcohol with 0.2% isopropylamine) in CO2; flow: 70 mL/minute at 225 nm). The first eluting isomer is the title compound (99% ee). Analysis column: Chiralpak AS-H 4.6×150 mm; eluent: 30% methyl alcohol with 0.2% isopropylamine) in CO2; flow: 5.0 mL/min at UV 225 nm, RT=1.08 minutes). ES/MS (m/e): 361 (M+H).

reactant | Racemic N-[7a-(4-cyano-2-thienyl)-6-(5-fluoropyrimidin-2-yl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide | 2.17 mmol, 1.01 g | C(#N)C=1C=C(SC1)C12N=C(SCC1CN(C2)C2=NC=C(C=N2)F)NC(C2=CC=CC=C2)=O | C22H17FN6OS2
reactant | pyridine | 32.6 mmol, 2.64 mL | N1=CC=CC=C1 | C5H5N
reactant | O-methylhydroxylamine hydrochloride | 21.7 mmol, 1.82 g | Cl.CON
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | 5-[(4aR,7aR)-2-Amino-6-(5-fluoropyrimidin-2-yl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-7a-yl]thiophene-3-carbonitrile | NC=1SC[C@H]2[C@@](N1)(CN(C2)C2=NC=C(C=N2)F)C2=CC(=CS2)C#N | C15H13FN6S2
